US07678795B2
3-(5-Chloro-2-trifluoromethyl-phenyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
yellow oil. MS (ESI): 340.1 (MH+). Prepared from cyclooctane-1,2-dione, [2-(5-Chloro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-(5-Chloro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC(=C1)Cl)C(F)(F)F | C11H11ClF3O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(5-Chloro-2-trifluoromethyl-phenyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | ClC=1C=CC(=C(C1)C1=CC2=C(N=N1)CCCCCC2)C(F)(F)F | C17H16ClF3N2
